datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[S:9])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6](=[C:7][C:8](=[S:9])[H:13])([H:10])[H:11],120.625
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]=[C:12]([C:13]([S:14][H:18])([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:16])[H:6])([H:4])[H:5].[S:11]=[C:12]([C:13]([S:14][H:18])[H:17])[H:15],21.3384
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[N:10]([H:11])[H:12]>>[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:5])[H:6].[H:4][N:10]([H:11])[H:12],35.60584
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]=[C:13]([C:14]([S:15][H:19])([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:17])[H:5].[S:12]=[C:13]([C:14]([S:15][H:19])[H:18])[H:16],6.276
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:7])([H:5])[H:6],30.5432
[O:0][H:1].[O:2][O:3][H:4]>>[O:0]([H:1])[H:4].[O:2][O:3],-2.079448
[H:10].[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9]>>[O:0]=[C:1]1[C:2]([H:6])([H:10])[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9],8.368
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([O:8][H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6](=[C:7]([O:8])[H:11])([H:9])[H:10],30.1248
[C:0]([C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7]>>[C:0]([C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8],93.663024
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([O:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[O:15][H:19])[H:7])([H:5])[H:6].[C:14]([H:16])([H:17])[H:18],205.211
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])[H:6].[H:7][O:16][H:17],0.0
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([C:3](=[C:4][H:11])[H:9])[H:8])[H:7])([H:5])([H:6])[H:10],160.143
[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][O:9],-3.740496
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14][H:15]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:12])[H:13])=[O:5])([H:6])[H:7].[H:11][O:14][H:15],4.987328
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[O:36][O:37]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][O:36][O:37],213.09112
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([C:16]#[C:17][H:20])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:18])([C:16]#[C:17][H:20])[H:19],41.84
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])[H:7],36.6937
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:6])[H:5],61.4211
[C:0]([H:1])([H:2])[H:3].[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14]>>[C:0]([H:1])([H:2])([H:3])[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14],-0.799144
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17])[H:5],39.2459
